US03935261
3,4-Dihydro-2H-pyran (272 g., 3.35 mole) was added dropwise at 40°C. with stirring to 7-hydroxyheptanenitrile (284 g., 2.24 mole) and concentrated hydrochloric acid (10 drops). The temperature was allowed to rise to 65°C. and was maintained at this level for one hour. The solution was cooled and benzene (500 ml.) was added. The solution was washed with aqueous sodium bicarbonate and then water, and dried over sodium sulphate. The solvent was removed in vacuo, and the residue distilled under reduced pressure to give 7-(2-tetrahydropyranyloxy)heptanenitrile (411 g., 87%), b.p. 100°-130°C./0.1 mm.Hg, nD25 1.455.

reactant | 3,4-Dihydro-2H-pyran | 3.35 mole, 272 g | O1CCCC=C1 | C5H8O
reactant | 7-hydroxyheptanenitrile | 2.24 mole, 284 g | OCCCCCCC#N | C7H13NO
catalyst | hydrochloric acid | 10 drops | Cl | ClH
solvent | benzene | 500 ml | C1=CC=CC=C1 | C6H6
product | 7-(2-tetrahydropyranyloxy)heptanenitrile | 411 g, 87% | O1C(CCCC1)OCCCCCCC#N | C12H21NO2
